US09126969B2
6-fluoro-5-morpholin-4-yl-2-(4-nitro-1H-pyrazol-3-yl)-1H-benzimidazol
530 mg of 4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazole-3-carbaldehyde (the preparation of which is described in WO 03/035065, reference example 6m page 479) are added slowly to a solution of 500 mg of 4-fluoro-5-morpholin-4-ylbenzene-1,2-diamine in 50 mL of methanol, and then 19.5 mg of ferric chloride are added. The reaction medium is stirred at 22° C. for 18 hours. After evaporation, the reaction crude is purified by flash chromatography on an Intelliflash apparatus on an Analogix RS-90 cartridge. The elution is carried out as follows: 100% cyclohexane for 20 minutes, then 20 minutes with an 80:20 cyclohexane/ethyl acetate mixture and 120 minutes with a 20:80 cyclohexane/ethyl acetate mixture. 457 mg of 6-fluoro-5-morpholin-4-yl-2-(4-nitro-1H-pyrazol-3-yl)-1H-benzimidazoleare isolated. 1H NMR (400 MHz, (CD3)2SO, δ in ppm): 1.42-1.80 (m: 3H); 1.91-2.06 (m: 2H); 2.18 (m: 1H); 3.02 (m: 4H); 3.70 (m: 1H); 3.78 (m: 4H); 4.00 (broad d J=10 Hz: 1H); 5.60 (dd, J=10 and 2 Hz: 1H); 7.18 (very broad s: 1H); 7.45 (very broad s: 1H); 9.18 (s: 1H); 12.85 (very broad s: 1H).

reactant | 4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazole-3-carbaldehyde | 530 mg | [N+](=O)([O-])C=1C(=NN(C1)C1OCCCC1)C=O | C9H11N3O4
reactant | 4-fluoro-5-morpholin-4-ylbenzene-1,2-diamine | 500 mg | FC=1C=C(C(=CC1N1CCOCC1)N)N | C10H14FN3O
solvent | methanol | 50 mL | CO | CH4O
product | 6-fluoro-5-morpholin-4-yl-2-(4-nitro-1H-pyrazol-3-yl)-1H-benzimidazol | FC=1C(=CC2=C(NC(=N2)C2=NNC=C2[N+](=O)[O-])C1)N1CCOCC1 | C14H13FN6O3
